US04452851
To a solution of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylate (syn isomer) (3.2 g) in methylene chloride (20 ml) was added m-chloroperbenzoic acid (1.62 g) at ambient temperature. The mixture was stirred for an hour. The resulting solution was concentrated under reduced pressure and the residue was subjected to column chromatography on silica gel (eluent: benzene-ethyl acetate) to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylate-1-oxide (syn isomer), 0.6 g).

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylate | 3.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C39H37N5O11S3
reactant | m-chloroperbenzoic acid | 1.62 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylate-1-oxide | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C39H37N5O12S3
